US07968538B2
N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)benzo[b]thiophen-3-amine hydrochloride
To a solution of N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)benzo[b]thiophen-3-amine (0.05 mmol) in dichloromethane (2 mL) at 0° C. was added 30 μL of 2 M HCl in diethyl ether. The solution was allowed to stir for 10 minutes after which a precipitate formed. The solvent was removed by rotary evaporation to collect the title compound in 91% yield. 1H NMR (400 MHz, CD3OD): δ 8.24 (s, 1H), 7.98 (m, 1H), 7.65 (d, 1H), 7.54 (m, 2H), 7.22 (s, 1H), 6.49 (m, 2H), 3.20 (s, 3H), 3.17 (m, 4H), 2.94 (m, 4H); MS (ESI) m/z: 388.2 (M++1).

reactant | N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)benzo[b]thiophen-3-amine | 0.05 mmol | CS(=O)(=O)C1=C(C=C(C=C1)N1CCNCC1)NC=1C2=C(SC1)C=CC=C2 | C19H21N3O2S2
reactant | HCl | 2 M, 30 μL | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)benzo[b]thiophen-3-amine hydrochloride | 91% yield | Cl.CS(=O)(=O)C1=C(C=C(C=C1)N1CCNCC1)NC=1C2=C(SC1)C=CC=C2 | InChI=1S/C19H21N3O2S2.ClH/c1-26(23,24)19-7-6-14(22-10-8-20-9-11-22)12-16(19)21-17-13-25-18-5-3-2-4-15(17)18;/h2-7,12-13,20-21H,8-11H2,1H3;1H
